*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/6.80e-03[uF]/80[V]
* Murata P/N :GCM2192C1K682JA01
* Property : C = 6.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2192C1K682JA01 Port1 Port2
C01 Port1 N01 6.72e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 4.05e-11
R03 N02 N03 6.80e-03
L04 N03 N04 1.31e-11
R04 N03 N04 3.70e-01
L05 N04 N05 4.89e-11
R05 N04 N05 2.46e-01
L06 N05 N06 5.37e-11
R06 N05 N06 1.10e-02
L07 N06 N07 2.34e-10
R07 N06 N07 4.78e-03
C08 N07 N08 2.20e-08
L08 N07 N08 3.30e-11
R08 N07 N08 2.01e-01
C09 N08 N09 9.31e-09
L09 N08 N09 3.02e-11
R09 N08 N09 2.96e-01
C10 N09 N10 3.90e-09
L10 N09 N10 2.07e-11
R10 N09 N10 1.15e-01
C11 N10 Port2 1.03e-12
L11 N10 Port2 3.39e-10
R11 N10 Port2 6.27e+02
.ENDS GCM2192C1K682JA01
